US03953464
3-(Salicyloylimino)-1-methyl-3H-1,2-benzisothiazole-1-oxide.
A solution of 1.6 g. salicylic acid chloride in 5 cc. tetrahydrofuran is added dropwise, while stirring, to a solution of 1.8 g. 3-imino-1-methyl-3H-1,2-benzisothiazole-1-oxide and 1.2 g. triethylamine in 50 cc. tetrahydrofuran. The reaction mixture is stirred overnight at ambient temperature, thereafter poured into water and the precipitate obtained is filtered off with suction. There is thus obtained 3-(salicyloylimino)-1-methyl-3H-1,2-benzisothiazole-1-oxide which, after recrystallisation from ethanol, melts at 168° - 169°C.

reactant | salicylic acid chloride | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 3-imino-1-methyl-3H-1,2-benzisothiazole-1-oxide | N=C1NS(C2=C1C=CC=C2)(C)=O | C8H10N2OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 3-(Salicyloylimino)-1-methyl-3H-1,2-benzisothiazole-1-oxide | C(C=1C(O)=CC=CC1)(=O)N=C1NS(C2=C1C=CC=C2)(C)=O | C15H14N2O3S
